US08492378B2
1-[4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]phenyl]ethanol
To a solution of 1-[4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]phenyl]ethanone (0.30 g, 0.94 mmol) in ethanol (3 mL) was added sodium borohydride (90%, 59 mg, 1.41 mmol) at 0° C., and the resulting mixture was stirred overnight at room temperature. The reaction mixture was concentrated under reduced pressure, water was added to the residue, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane/ethyl acetate=1/2-1/3) and recrystallized from hexane/ethyl acetate to give the title compound (0.23 g, yield 76%) as colorless crystals.

reactant | 1-[4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]phenyl]ethanone | 0.94 mmol, 0.30 g | CC1=NN=C(O1)C=1C=CC2=C(C(=CO2)C2=CC=C(C=C2)C(C)=O)C1 | C19H14N2O3
reactant | sodium borohydride | 1.41 mmol, 59 mg | [BH4-].[Na+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 1-[4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]phenyl]ethanol | 0.23 g, yield 76% | CC1=NN=C(O1)C=1C=CC2=C(C(=CO2)C2=CC=C(C=C2)C(C)O)C1 | C19H16N2O3
